US07429581B2
(ii) 5-[2-(2-Methoxy-ethoxy)-ethoxymethyl]-2H-pyrazole-3-carboxylic acid tert-butyl ester
To a solution containing approx. 2.5 g 3-[2-(2-Methoxy-ethoxy)-ethoxy]-propyne, 2.8 g Diazo-acetic acid tert-butyl ester were added and the mixture was heated to 70° C. for 5 days. Then the solution was concentrated under reduced pressure and directly purified by chromatography on silica eluting with a n-heptane/ethyl acetate gradient. Yield: 1.7 g.

reactant | 3-[2-(2-Methoxy-ethoxy)-ethoxy]-propyne | approx. 2.5 g | COCCOCCOCC#C | C8H14O3
reactant | Diazo-acetic acid tert-butyl ester | 2.8 g | C(C)(C)(C)OC(C=[N+]=[N-])=O | C6H10N2O2
product | 5-[2-(2-Methoxy-ethoxy)-ethoxymethyl]-2H-pyrazole-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C=1NN=C(C1)COCCOCCOC | C14H24N2O5
